US06194406B1
1-(3,4,5-Trimethoxybenzoyl)-3-(2-(4-(1-(4-cyanobutyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine
Combine 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine (0.1 g, 0.17 mmol) and dimethylformamide (2 mL). Add sodium hydride (8 mg, 60% in oil, 0.34 mmol). After 12 hours, add 1-bromo-4-cyanobutane (27 mg, 0.17 mmol). After 1.5 hours, add water (5 mL) and dichloromethane (20 mL). Separate the layers and extract the aqueous layer twice with dichloromethane. Combine the organic layers, dry over Na2SO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with 5% methanol/dichloromethane/0.5% concentrated aqueous ammonia to give the title compound: Rf=0.26 (silica gel, 5% methanol/dichloromethane/0.5% concentrated aqueous ammonia).

reactant | 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine | 0.17 mmol, 0.1 g | COC=1C=C(C(=O)N2CC(CC2)(C2=CC=CC=C2)CCN2CCN(CCC2)C2=NC3=C(N2)C=CC=C3)C=C(C1OC)OC | C34H41N5O4
reactant | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
reactant | sodium hydride | 0.34 mmol, 8 mg | [H-].[Na+]
reactant | 1-bromo-4-cyanobutane | 0.17 mmol, 27 mg | BrCCCCC#N | C5H8BrN
solvent | methanol dichloromethane | CO.ClCCl
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | water | 5 mL | O | H2O
product | 1-(3,4,5-Trimethoxybenzoyl)-3-(2-(4-(1-(4-cyanobutyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(C2=CC=CC=C2)CCN2CCN(CCC2)C2=NC3=C(N2CCCCC#N)C=CC=C3)C=C(C1OC)OC | C39H48N6O4
